************************************************************
.SUBCKT AN2D0BWP A1 A2 Z VDD VSS 
M_u3-M_u2 Z net6 VSS VSS nmos w=0.155u l=0.04u
M_u2-M_u4 X_u2-net6 A2 VSS VSS nmos w=0.155u l=0.04u
M_u2-M_u3 net6 A1 X_u2-net6 VSS nmos w=0.155u l=0.04u
M_u3-M_u3 Z net6 VDD VDD pmos w=0.205u l=0.04u
M_u2-M_u2 net6 A2 VDD VDD pmos w=0.205u l=0.04u
M_u2-M_u1 net6 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AN3D0BWP A1 A2 A3 Z VDD VSS 
M_u4-M_u4 net7 A1 X_u4-net10 VSS nmos w=0.155u l=0.04u
M_u4-M_u5 X_u4-net10 A2 X_u4-net13 VSS nmos w=0.155u l=0.04u
M_u4-M_u6 X_u4-net13 A3 VSS VSS nmos w=0.155u l=0.04u
M_u3-M_u2 Z net7 VSS VSS nmos w=0.155u l=0.04u
M_u4-M_u3 net7 A3 VDD VDD pmos w=0.205u l=0.04u
M_u4-M_u1 net7 A1 VDD VDD pmos w=0.205u l=0.04u
M_u4-M_u2 net7 A2 VDD VDD pmos w=0.205u l=0.04u
M_u3-M_u3 Z net7 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AO22D0BWP A1 A2 B1 B2 Z VDD VSS 
MI23 net29 A2 VSS VSS nmos w=0.155u l=0.04u
MI16 net26 B1 net20 VSS nmos w=0.155u l=0.04u
MI22 net20 B2 VSS VSS nmos w=0.155u l=0.04u
MI24 net26 A1 net29 VSS nmos w=0.155u l=0.04u
MI8-M_u2 Z net26 VSS VSS nmos w=0.155u l=0.04u
MI8-M_u3 Z net26 VDD VDD pmos w=0.205u l=0.04u
MI20 net26 A1 net40 VDD pmos w=0.205u l=0.04u
MI19 net26 A2 net40 VDD pmos w=0.205u l=0.04u
M_u2 net40 B2 VDD VDD pmos w=0.205u l=0.04u
MI21 net40 B1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AOI211D0BWP A1 A2 B C ZN VDD VSS 
M_u3 net11 A1 ZN VDD pmos w=0.205u l=0.04u
MI0 net11 A2 ZN VDD pmos w=0.205u l=0.04u
MI16-MI12 net11 B XI16-net11 VDD pmos w=0.205u l=0.04u
MI16-MI13 XI16-net11 C VDD VDD pmos w=0.205u l=0.04u
MI2 ZN C VSS VSS nmos w=0.155u l=0.04u
M_u13 ZN B VSS VSS nmos w=0.155u l=0.04u
MI12-M_u10 ZN A1 XI12-net17 VSS nmos w=0.155u l=0.04u
MI12-M_u11 XI12-net17 A2 VSS VSS nmos w=0.155u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AOI221D0BWP A1 A2 B1 B2 C ZN VDD VSS 
MU20 ZN C VSS VSS nmos w=0.155u l=0.04u
MI17-M_u10 ZN B1 XI17-net17 VSS nmos w=0.155u l=0.04u
MI17-M_u11 XI17-net17 B2 VSS VSS nmos w=0.155u l=0.04u
MI10-M_u10 ZN A1 XI10-net17 VSS nmos w=0.155u l=0.04u
MI10-M_u11 XI10-net17 A2 VSS VSS nmos w=0.155u l=0.04u
MI9 net30 A1 ZN VDD pmos w=0.205u l=0.04u
MI8 net30 A2 ZN VDD pmos w=0.205u l=0.04u
MU22 VDD C net36 VDD pmos w=0.205u l=0.04u
MI6 net36 B2 net30 VDD pmos w=0.205u l=0.04u
MI7 net36 B1 net30 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AOI22D0BWP A1 A2 B1 B2 ZN VDD VSS 
MI22 net29 B2 VSS VSS nmos w=0.155u l=0.04u
MI21 ZN B1 net29 VSS nmos w=0.155u l=0.04u
MI9 ZN A1 net23 VSS nmos w=0.155u l=0.04u
MI20 net23 A2 VSS VSS nmos w=0.155u l=0.04u
MI18 net20 A2 ZN VDD pmos w=0.205u l=0.04u
MI19 net20 A1 ZN VDD pmos w=0.205u l=0.04u
MI17 VDD B1 net20 VDD pmos w=0.205u l=0.04u
M_u5 VDD B2 net20 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AOI32D0BWP A1 A2 A3 B1 B2 ZN VDD VSS 
MI8 ZN A1 net23 VDD pmos w=0.205u l=0.04u
MI6 ZN A3 net23 VDD pmos w=0.205u l=0.04u
MI7 ZN A2 net23 VDD pmos w=0.205u l=0.04u
MU20 net23 B1 VDD VDD pmos w=0.205u l=0.04u
MI5 net23 B2 VDD VDD pmos w=0.205u l=0.04u
MI20-MI12 XI20-net13 A3 VSS VSS nmos w=0.155u l=0.04u
MI20-M_u10 ZN A1 XI20-net17 VSS nmos w=0.155u l=0.04u
MI20-M_u11 XI20-net17 A2 XI20-net13 VSS nmos w=0.155u l=0.04u
MI17-M_u10 ZN B1 XI17-net17 VSS nmos w=0.155u l=0.04u
MI17-M_u11 XI17-net17 B2 VSS VSS nmos w=0.155u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKMUX2D0BWP I0 I1 S Z VDD VSS 
MU29-M_u2 Z net28 VSS VSS nmos w=0.155u l=0.04u
MI111 net47 I0 VSS VSS nmos w=0.155u l=0.04u
MI5 net28 net6 net47 VSS nmos w=0.155u l=0.04u
MI14 net44 I1 VSS VSS nmos w=0.155u l=0.04u
MI13 net28 S net44 VSS nmos w=0.155u l=0.04u
MU24 net6 S VSS VSS nmos w=0.155u l=0.04u
MU29-M_u3 Z net28 VDD VDD pmos w=0.205u l=0.04u
MI2 VDD I0 net47 VDD pmos w=0.205u l=0.04u
MI4 net47 S net28 VDD pmos w=0.205u l=0.04u
MI12 net44 net6 net28 VDD pmos w=0.205u l=0.04u
MI10 VDD I1 net44 VDD pmos w=0.205u l=0.04u
MU25 VDD S net6 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKND0BWP I ZN VDD VSS 
M_u2 ZN I VSS VSS nmos w=0.135u l=0.04u
M_u1 ZN I VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKND2D0BWP A1 A2 ZN VDD VSS 
MU1-M_u4 XU1-net6 A2 VSS VSS nmos w=0.155u l=0.04u
MU1-M_u3 ZN A1 XU1-net6 VSS nmos w=0.155u l=0.04u
MU1-M_u2 ZN A2 VDD VDD pmos w=0.155u l=0.04u
MU1-M_u1 ZN A1 VDD VDD pmos w=0.155u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKXOR2D0BWP A1 A2 Z VDD VSS 
M_u6-M_u3 net4 net10 net14 VSS nmos w=0.155u l=0.04u
MI3-M_u3 net6 A1 net14 VSS nmos w=0.155u l=0.04u
MI1-M_u2 net4 A2 VSS VSS nmos w=0.155u l=0.04u
M_u5-M_u2 net6 net4 VSS VSS nmos w=0.155u l=0.04u
M_u4-M_u2 Z net14 VSS VSS nmos w=0.155u l=0.04u
MI2-M_u2 net10 A1 VSS VSS nmos w=0.155u l=0.04u
M_u6-M_u2 net4 A1 net14 VDD pmos w=0.205u l=0.04u
MI3-M_u2 net6 net10 net14 VDD pmos w=0.205u l=0.04u
MI1-M_u3 net4 A2 VDD VDD pmos w=0.205u l=0.04u
M_u5-M_u3 net6 net4 VDD VDD pmos w=0.205u l=0.04u
M_u4-M_u3 Z net14 VDD VDD pmos w=0.205u l=0.04u
MI2-M_u3 net10 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT IND2D0BWP A1 B1 ZN VDD VSS 
MI2-M_u2 net13 A1 VSS VSS nmos w=0.155u l=0.04u
MI13 net16 net13 VSS VSS nmos w=0.155u l=0.04u
MI12 ZN B1 net16 VSS nmos w=0.155u l=0.04u
MI2-M_u3 net13 A1 VDD VDD pmos w=0.205u l=0.04u
M_u16 VDD net13 ZN VDD pmos w=0.205u l=0.04u
MI11 VDD B1 ZN VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT IND3D0BWP A1 B1 B2 ZN VDD VSS 
MI5-M_u2 net30 A1 VSS VSS nmos w=0.155u l=0.04u
MI12 ZN B2 net23 VSS nmos w=0.155u l=0.04u
MI16 net20 net30 VSS VSS nmos w=0.155u l=0.04u
MI15 net23 B1 net20 VSS nmos w=0.155u l=0.04u
MI5-M_u3 net30 A1 VDD VDD pmos w=0.205u l=0.04u
MI9 VDD B2 ZN VDD pmos w=0.205u l=0.04u
MI13 VDD B1 ZN VDD pmos w=0.205u l=0.04u
MI14 VDD net30 ZN VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT INR3D0BWP A1 B1 B2 ZN VDD VSS 
MU9-M_u6 ZN B2 VSS VSS nmos w=0.155u l=0.04u
MU9-M_u5 ZN B1 VSS VSS nmos w=0.155u l=0.04u
MU9-M_u4 ZN net12 VSS VSS nmos w=0.155u l=0.04u
MU47-M_u2 net12 A1 VSS VSS nmos w=0.155u l=0.04u
MU9-M_u1 XU9-net9 net12 VDD VDD pmos w=0.41u l=0.04u
MU9-M_u2 XU9-net12 B1 XU9-net9 VDD pmos w=0.41u l=0.04u
MU9-M_u3 ZN B2 XU9-net12 VDD pmos w=0.41u l=0.04u
MU47-M_u3 net12 A1 VDD VDD pmos w=0.31u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT IOA21D0BWP A1 A2 B ZN VDD VSS 
MU35-M_u4 XU35-net6 A2 VSS VSS nmos w=0.155u l=0.04u
MU35-M_u3 net5 A1 XU35-net6 VSS nmos w=0.155u l=0.04u
MU36-M_u4 XU36-net6 net5 VSS VSS nmos w=0.155u l=0.04u
MU36-M_u3 ZN B XU36-net6 VSS nmos w=0.155u l=0.04u
MU35-M_u2 net5 A2 VDD VDD pmos w=0.205u l=0.04u
MU35-M_u1 net5 A1 VDD VDD pmos w=0.205u l=0.04u
MU36-M_u2 ZN net5 VDD VDD pmos w=0.205u l=0.04u
MU36-M_u1 ZN B VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT MAOI222D0BWP A B C ZN VDD VSS 
MU10 net26 C VSS VSS nmos w=0.155u l=0.04u
MU9 net26 A ZN VSS nmos w=0.155u l=0.04u
MU8 net26 B ZN VSS nmos w=0.155u l=0.04u
MU6 ZN A net38 VSS nmos w=0.155u l=0.04u
MU7 net38 B VSS VSS nmos w=0.155u l=0.04u
MU2 net16 B VDD VDD pmos w=0.205u l=0.04u
MU5 net20 A ZN VDD pmos w=0.205u l=0.04u
MU3 ZN A net16 VDD pmos w=0.205u l=0.04u
MU4 net20 B ZN VDD pmos w=0.205u l=0.04u
MU1 net20 C VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT MAOI22D0BWP A1 A2 B1 B2 ZN VDD VSS 
MI18 net17 B2 VSS VSS nmos w=0.155u l=0.04u
MI12 net17 B1 VSS VSS nmos w=0.155u l=0.04u
MI20 net63 A2 VSS VSS nmos w=0.155u l=0.04u
MI21 ZN net17 VSS VSS nmos w=0.155u l=0.04u
MI19 ZN A1 net63 VSS nmos w=0.155u l=0.04u
MI16 ZN A2 net31 VDD pmos w=0.205u l=0.04u
MI1 net39 B2 VDD VDD pmos w=0.195u l=0.04u
MI15 net31 net17 VDD VDD pmos w=0.195u l=0.04u
MI17 ZN A1 net31 VDD pmos w=0.195u l=0.04u
MI14 net17 B1 net39 VDD pmos w=0.195u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT MUX2ND0BWP I0 I1 S ZN VDD VSS 
MI15-M_u2 net19 S VSS VSS nmos w=0.155u l=0.04u
MI21 ZN S net40 VSS nmos w=0.155u l=0.04u
MI12 ZN net19 net36 VSS nmos w=0.155u l=0.04u
MI20 net40 I1 VSS VSS nmos w=0.31u l=0.04u
MI19 net36 I0 VSS VSS nmos w=0.155u l=0.04u
MI15-M_u3 net19 S VDD VDD pmos w=0.205u l=0.04u
MI25 ZN net19 net26 VDD pmos w=0.325u l=0.04u
MI24 net26 I1 VDD VDD pmos w=0.41u l=0.04u
MI5 ZN S net30 VDD pmos w=0.325u l=0.04u
MI111 net30 I0 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT ND3D0BWP A1 A2 A3 ZN VDD VSS 
MI0-M_u4 ZN A1 XI0-net10 VSS nmos w=0.155u l=0.04u
MI0-M_u5 XI0-net10 A2 XI0-net13 VSS nmos w=0.155u l=0.04u
MI0-M_u6 XI0-net13 A3 VSS VSS nmos w=0.155u l=0.04u
MI0-M_u3 ZN A3 VDD VDD pmos w=0.205u l=0.04u
MI0-M_u1 ZN A1 VDD VDD pmos w=0.205u l=0.04u
MI0-M_u2 ZN A2 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT ND4D0BWP A1 A2 A3 A4 ZN VDD VSS 
MI19 p2 A4 VSS VSS nmos w=0.155u l=0.04u
MI17 p0 A2 p1 VSS nmos w=0.155u l=0.04u
MI18 p1 A3 p2 VSS nmos w=0.155u l=0.04u
MU53 ZN A1 p0 VSS nmos w=0.155u l=0.04u
MI14 ZN A3 VDD VDD pmos w=0.205u l=0.04u
MI15 ZN A2 VDD VDD pmos w=0.205u l=0.04u
MI16 ZN A1 VDD VDD pmos w=0.205u l=0.04u
MI9 ZN A4 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT NR2D0BWP A1 A2 ZN VDD VSS 
MI1-M_u4 ZN A1 VSS VSS nmos w=0.155u l=0.04u
MI1-M_u3 ZN A2 VSS VSS nmos w=0.155u l=0.04u
MI1-M_u1 XI1-net8 A2 VDD VDD pmos w=0.205u l=0.04u
MI1-M_u2 ZN A1 XI1-net8 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT NR3D0BWP A1 A2 A3 ZN VDD VSS 
M_u4 ZN A3 VSS VSS nmos w=0.155u l=0.04u
MI2 ZN A2 VSS VSS nmos w=0.155u l=0.04u
MI3 ZN A1 VSS VSS nmos w=0.155u l=0.04u
M_u1 net25 A3 VDD VDD pmos w=0.41u l=0.04u
MI0 net28 A2 net25 VDD pmos w=0.41u l=0.04u
MI1 ZN A1 net28 VDD pmos w=0.41u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT NR4D0BWP A1 A2 A3 A4 ZN VDD VSS 
MI36 ZN A4 VSS VSS nmos w=0.155u l=0.04u
MI35 ZN A3 VSS VSS nmos w=0.155u l=0.04u
MI34 ZN A2 VSS VSS nmos w=0.155u l=0.04u
MI5 ZN A1 VSS VSS nmos w=0.155u l=0.04u
MI26 net49 A3 net52 VDD pmos w=0.41u l=0.04u
MI7 net52 A4 VDD VDD pmos w=0.41u l=0.04u
MI27 net46 A2 net49 VDD pmos w=0.41u l=0.04u
MI28 ZN A1 net46 VDD pmos w=0.41u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OA32D0BWP A1 A2 A3 B1 B2 Z VDD VSS 
MI12 net14 B1 VSS VSS nmos w=0.155u l=0.04u
MI11 net14 B2 VSS VSS nmos w=0.155u l=0.04u
MI3 net35 A3 net14 VSS nmos w=0.155u l=0.04u
MI8 net35 A2 net14 VSS nmos w=0.155u l=0.04u
MI9 net35 A1 net14 VSS nmos w=0.155u l=0.04u
MU1-M_u2 Z net35 VSS VSS nmos w=0.155u l=0.04u
MU1-M_u3 Z net35 VDD VDD pmos w=0.205u l=0.04u
MI16-MI12 net35 B2 XI16-net11 VDD pmos w=0.205u l=0.04u
MI16-MI13 XI16-net11 B1 VDD VDD pmos w=0.205u l=0.04u
MI15-MI12 net35 A3 XI15-net11 VDD pmos w=0.205u l=0.04u
MI15-MI13 XI15-net11 A2 XI15-net18 VDD pmos w=0.205u l=0.04u
MI15-MI15 XI15-net18 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OAI21D0BWP A1 A2 B ZN VDD VSS 
M_u2 ZN A1 net15 VSS nmos w=0.155u l=0.04u
M_u3 ZN A2 net15 VSS nmos w=0.155u l=0.04u
M_u4 net15 B VSS VSS nmos w=0.155u l=0.04u
M_u9 ZN B VDD VDD pmos w=0.205u l=0.04u
MI16-MI12 ZN A1 XI16-net11 VDD pmos w=0.205u l=0.04u
MI16-MI13 XI16-net11 A2 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OAI32D0BWP A1 A2 A3 B1 B2 ZN VDD VSS 
MI9 ZN A1 net14 VSS nmos w=0.155u l=0.04u
MI11 net14 B2 VSS VSS nmos w=0.155u l=0.04u
MI12 net14 B1 VSS VSS nmos w=0.155u l=0.04u
MI3 ZN A3 net14 VSS nmos w=0.155u l=0.04u
MI8 ZN A2 net14 VSS nmos w=0.155u l=0.04u
MI16-MI12 ZN B2 XI16-net11 VDD pmos w=0.205u l=0.04u
MI16-MI13 XI16-net11 B1 VDD VDD pmos w=0.205u l=0.04u
MI15-MI12 ZN A3 XI15-net11 VDD pmos w=0.205u l=0.04u
MI15-MI13 XI15-net11 A2 XI15-net18 VDD pmos w=0.205u l=0.04u
MI15-MI15 XI15-net18 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OR2D0BWP A1 A2 Z VDD VSS 
MU1-M_u2 Z net7 VSS VSS nmos w=0.155u l=0.04u
M_u7-M_u4 net7 A1 VSS VSS nmos w=0.155u l=0.04u
M_u7-M_u3 net7 A2 VSS VSS nmos w=0.155u l=0.04u
MU1-M_u3 Z net7 VDD VDD pmos w=0.205u l=0.04u
M_u7-M_u1 X_u7-net8 A2 VDD VDD pmos w=0.205u l=0.04u
M_u7-M_u2 net7 A1 X_u7-net8 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT XNR2D0BWP A1 A2 ZN VDD VSS 
MI0-M_u3 net4 A1 net14 VSS nmos w=0.155u l=0.04u
M_u7-M_u3 net6 net10 net14 VSS nmos w=0.17u l=0.04u
M_u2-M_u2 net4 A2 VSS VSS nmos w=0.155u l=0.04u
M_u5-M_u2 net6 net4 VSS VSS nmos w=0.17u l=0.04u
M_u4-M_u2 ZN net14 VSS VSS nmos w=0.155u l=0.04u
M_u8-M_u2 net10 A1 VSS VSS nmos w=0.155u l=0.04u
MI0-M_u2 net4 net10 net14 VDD pmos w=0.255u l=0.04u
M_u7-M_u2 net6 A1 net14 VDD pmos w=0.28u l=0.04u
M_u2-M_u3 net4 A2 VDD VDD pmos w=0.205u l=0.04u
M_u5-M_u3 net6 net4 VDD VDD pmos w=0.24u l=0.04u
M_u4-M_u3 ZN net14 VDD VDD pmos w=0.205u l=0.04u
M_u8-M_u3 net10 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT XOR3D0BWP A1 A2 A3 Z VDD VSS 
MI15 net29 net21 net041 VSS nmos w=0.155u l=0.04u
MU63 net035 net19 VSS VSS nmos w=0.155u l=0.04u
MI14 net041 net13 VSS VSS nmos w=0.155u l=0.04u
MI42 net25 A2 net035 VSS nmos w=0.155u l=0.04u
M_u6-M_u3 net19 net17 net25 VSS nmos w=0.155u l=0.04u
MU18-M_u3 net13 net25 net29 VSS nmos w=0.155u l=0.04u
MI1-M_u2 Z net29 VSS VSS nmos w=0.155u l=0.04u
MI3-M_u2 net13 A3 VSS VSS nmos w=0.155u l=0.04u
MI7-M_u2 net17 A2 VSS VSS nmos w=0.155u l=0.04u
MI2-M_u2 net19 A1 VSS VSS nmos w=0.155u l=0.04u
MI6-M_u2 net21 net25 VSS VSS nmos w=0.155u l=0.04u
MU62 net028 net19 VDD VDD pmos w=0.205u l=0.04u
MI8 net25 net17 net028 VDD pmos w=0.205u l=0.04u
MI12 net29 net25 net029 VDD pmos w=0.205u l=0.04u
MI13 net029 net13 VDD VDD pmos w=0.205u l=0.04u
M_u6-M_u2 net19 A2 net25 VDD pmos w=0.205u l=0.04u
MU18-M_u2 net13 net21 net29 VDD pmos w=0.205u l=0.04u
MI1-M_u3 Z net29 VDD VDD pmos w=0.205u l=0.04u
MI3-M_u3 net13 A3 VDD VDD pmos w=0.205u l=0.04u
MI7-M_u3 net17 A2 VDD VDD pmos w=0.205u l=0.04u
MI2-M_u3 net19 A1 VDD VDD pmos w=0.205u l=0.04u
MI6-M_u3 net21 net25 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT XOR4D0BWP A1 A2 A3 A4 Z VDD VSS 
MI15-M_u3 net28 net20 net64 VSS nmos w=0.155u l=0.04u
MI8-M_u3 net24 net30 net32 VSS nmos w=0.155u l=0.04u
MI17-M_u3 net28 net40 net24 VSS nmos w=0.155u l=0.04u
MI11-M_u3 net40 A4 net108 VSS nmos w=0.155u l=0.04u
MI9-M_u3 net40 net106 net104 VSS nmos w=0.155u l=0.04u
MI21 net24 A1 net050 VSS nmos w=0.155u l=0.04u
MI22 net050 net32 VSS VSS nmos w=0.155u l=0.04u
MI19-M_u2 net20 net40 VSS VSS nmos w=0.155u l=0.04u
MI13-M_u2 net106 A4 VSS VSS nmos w=0.155u l=0.04u
MI14-M_u2 net104 A3 VSS VSS nmos w=0.155u l=0.04u
M_u8-M_u2 net30 A1 VSS VSS nmos w=0.155u l=0.04u
MI12-M_u2 net108 net104 VSS VSS nmos w=0.155u l=0.04u
MU20-M_u2 Z net28 VSS VSS nmos w=0.155u l=0.04u
MI1-M_u2 net32 A2 VSS VSS nmos w=0.155u l=0.04u
MI16-M_u2 net64 net24 VSS VSS nmos w=0.2u l=0.04u
MI15-M_u2 net28 net40 net64 VDD pmos w=0.205u l=0.04u
MI8-M_u2 net24 A1 net32 VDD pmos w=0.205u l=0.04u
MI17-M_u2 net28 net20 net24 VDD pmos w=0.205u l=0.04u
MI11-M_u2 net40 net106 net108 VDD pmos w=0.205u l=0.04u
MI9-M_u2 net40 A4 net104 VDD pmos w=0.205u l=0.04u
MI19-M_u3 net20 net40 VDD VDD pmos w=0.205u l=0.04u
MI13-M_u3 net106 A4 VDD VDD pmos w=0.205u l=0.04u
MI14-M_u3 net104 A3 VDD VDD pmos w=0.205u l=0.04u
M_u8-M_u3 net30 A1 VDD VDD pmos w=0.205u l=0.04u
MI12-M_u3 net108 net104 VDD VDD pmos w=0.205u l=0.04u
MU20-M_u3 Z net28 VDD VDD pmos w=0.205u l=0.04u
MI1-M_u3 net32 A2 VDD VDD pmos w=0.205u l=0.04u
MI16-M_u3 net64 net24 VDD VDD pmos w=0.28u l=0.04u
MI20 net24 net30 net045 VDD pmos w=0.205u l=0.04u
M_u2 net045 net32 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

